US07902356B2
2-(4-Chloro-phenyl)-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one
Dissolve 2-(4-chloro-phenyl)-5-(3,4-dimethoxy-benzyl)-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one (376 mg, 0.91 mmol) in toluene (5.0 mL) and treat with para-toluene sulfonic acid (176 mg, 0.92 mmol). Stir the solution at reflux for 2 d, then concentrate and purify the crude material by flash chromatography, using 5% MeOH (2N NH3)/CH2Cl2 as eluent, to give the title compound as a white solid (170 mg, 70%). MS (ES+) 265.0 (M+1)+. 1H NMR (CDCl3): δ 8.02 (d, 2H, J=8.8 Hz), 7.94 (s, 1H), 7.60 (d, 2H, J=8.4 Hz), 3.52 (dt, 2H, J=7.1, 2.5 Hz), 3.04 (t, 2H, J=7.3 Hz).

reactant | 2-(4-chloro-phenyl)-5-(3,4-dimethoxy-benzyl)-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one | 0.91 mmol, 376 mg | ClC1=CC=C(C=C1)C=1SC=2C(N(CCC2N1)CC1=CC(=C(C=C1)OC)OC)=O | C21H19ClN2O3S
reactant | para-toluene sulfonic acid | 0.92 mmol, 176 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Chloro-phenyl)-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one | 170 mg, 70% | ClC1=CC=C(C=C1)C=1SC=2C(NCCC2N1)=O | C12H9ClN2OS
